US04000302
Liquid ammonia (20 g) and 4-phthalimidovaleronitrile (67 g) is added to a cooled solution of hydrogen sulphide (50 g) in methyl alcohol (500 ml). The sealed reaction vessel is the heated at 40° for 3 days with stirring. Concentration followed by recrystallization from isopropyl acetate yields 4-phthalimidothiovaleramide, m.p. 143°-146° C.

reactant | ammonia | 20 g | N | H3N
reactant | 4-phthalimidovaleronitrile | 67 g | C1(C=2C(C(N1C(CCC#N)C)=O)=CC=CC2)=O | C13H12N2O2
reactant | hydrogen sulphide | 50 g | S | H2S
solvent | methyl alcohol | 500 ml | CO | CH4O
product | 4-phthalimidothiovaleramide | C1(C=2C(C(N1C(CCC(=S)N)C)=O)=CC=CC2)=O | C13H14N2O2S
